US05496930
17. Preparation of 6-O-benzoylglucal
1.0 g (6.85 mmol) of glucal is taken up in 1.5-2.0 ml of tetrahydrofuran and 3-5 ml of vinyl benzoate and stirred with 1 g of lipase from Candida cylindracea (Amano AY-20) at room temperature for 6 h. Filtering off the enzyme, concentration of the solution in vacuo, taking up the residue in ethyl acetate and extracting it with aqueous NaHCO3 solution, and subsequent chromatography on silica gel (ethyl acetate/hexane 1:1) result in 1.20 g (70%) of the desired 6-O-benzoylglucal.

reactant | glucal | 6.85 mmol, 1.0 g | O1C=C[C@@H](O)[C@H](O)[C@H]1CO | C6H10O4
reactant | vinyl benzoate | 3-5 ml | C(C1=CC=CC=C1)(=O)OC=C | C9H8O2
solvent | tetrahydrofuran | 1.5-2.0 ml | O1CCCC1 | C4H8O
product | 6-O-benzoylglucal | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@H]([C@@H](C=CO1)O)O | C13H14O5
